US07265108B2
After dissolving 1.4 g of 1-(tert-butoxycarbonyl)-4-hydroxy-4-[(2-fluorophenyl)ethynyl]piperidine in 20 ml of ethyl acetate, 10 ml of 4N hydrogen chloride/ethyl acetate was added and the mixture was stirred overnight at room temperature. The solvent was distilled off under reduced pressure to obtain 1.28 g of 4-hydroxy-4-[(2-fluorophenyl)ethynyl]piperidine hydrochloride.

reactant | 1-(tert-butoxycarbonyl)-4-hydroxy-4-[(2-fluorophenyl)ethynyl]piperidine | 1.4 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C#CC1=C(C=CC=C1)F)O | C18H22FNO3
reactant | hydrogen chloride ethyl acetate | 4N, 10 ml | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 4-hydroxy-4-[(2-fluorophenyl)ethynyl]piperidine hydrochloride | 1.28 g | Cl.OC1(CCNCC1)C#CC1=C(C=CC=C1)F | InChI=1S/C13H14FNO.ClH/c14-12-4-2-1-3-11(12)5-6-13(16)7-9-15-10-8-13;/h1-4,15-16H,7-10H2;1H
